US09062041B2
4-{[6-(trifluoromethyl)pyridin-3-yl]oxy}benzonitrile
2.5 g of 5-bromo-2-(trifluoromethyl)pyridine, 5.8 g of 4-hydroxybenzonitrile, 10.8 g of caesium carbonate and 1.87 g of molybdenum hexacarbonyl in 100 ml 1,4-dioxan were heated under reflux until complete conversion. The reaction mixture was diluted with water, extracted several times with ethyl acetate, and the combined organic phases washed with saturated sodium chloride solution, dried over sodium sulphate and concentrated. The residue was purified by column chromatography on silica gel using a hexane/ethyl acetate gradient. Yield: 1.35 g of the title compound.

reactant | 5-bromo-2-(trifluoromethyl)pyridine | 2.5 g | BrC=1C=CC(=NC1)C(F)(F)F | C6H3BrF3N
reactant | 4-hydroxybenzonitrile | 5.8 g | OC1=CC=C(C#N)C=C1 | C7H5NO
reactant | caesium carbonate | 10.8 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-dioxan | 100 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
catalyst | molybdenum hexacarbonyl | 1.87 g | [C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[Mo]
product | 4-{[6-(trifluoromethyl)pyridin-3-yl]oxy}benzonitrile | FC(C1=CC=C(C=N1)OC1=CC=C(C#N)C=C1)(F)F | C13H7F3N2O
